US07321056B2
(R)-3-(4-Hydroxy-phenyl)-2-methoxy-propionic acid methyl ester
Compound (a), (R)-3-(4-hydroxy-phenyl)-2-methoxy-propionic acid sodium salt, (Example 2, Step 5) (5.00 g, 22.9 mmol) is dissolved in methanol (125 mL) and treated with methanesulfonic acid (7.44 mL, 114.6 mmol). The reaction is stirred at room temperature for 1 h. The reaction is concentrated in vacuo and the resulting residue taken up in diethyl ether. The organic portion is washed with water (2×) and saturated NaHCO3 solution, dried (Na2SO4), filtered and concentrated in vacuo to yield 4.00 g (83%) of an off-white solid. The material is used without further purification. 1H NMR (400 MHz, CDCl3) δ 7.06 (dd, J=2.2, 6.4 Hz, 2H), 6.72 (dd, J=2.2, 6.4 Hz, 2H), 5.38 (bd s, 1H), 3.95 (dd, J=5.3, 7.1 Hz, 1H), 3.71 (s, 3H), 3.35 (s, 3H), 2.95 (m, 2H); MS (electrospray), 209.2 (ES−).

reactant | (R)-3-(4-hydroxy-phenyl)-2-methoxy-propionic acid sodium salt | [Na+].OC1=CC=C(C=C1)C[C@H](C(=O)[O-])OC
reactant | methanesulfonic acid | 114.6 mmol, 7.44 mL | CS(=O)(=O)O | CH4O3S
solvent | methanol | 125 mL | CO | CH4O
product | (R)-3-(4-Hydroxy-phenyl)-2-methoxy-propionic acid methyl ester | 4.00 g, 83% | COC([C@@H](CC1=CC=C(C=C1)O)OC)=O | C11H14O4
